Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Acrylic Acid
 
Attending: ___.
 
Chief Complaint:
Band Prolapse/Band Intolerance
 
Major Surgical or Invasive Procedure:
Laparoscopic Band and Port Removal
 
History of Present Illness:
The patient is several years out for laparoscopic adjustable 
band with ___ pound weight loss. She is progressively having 
intolerance to band where she overeats or eats inappropriate 
foods and then vomits.  On swallow study, noted the band was 
prolapsed, and the decision to proceed with band removal.  The 
patient understands the risks including weight regain, but 
believes that her maladaptive eating puts her at additional 
risk.

 
Past Medical History:
Morbid obesity, HTN, DM2, Dyslipidemia, anemia of chronic 
disease
OSA, Pulmonary Hypertension,
Chronic Back Pain Chronic knee pain,
Cholecystitis, history of HEP A, 
Fibroid Uterus
 
Social History:
Denies past or present tobacco use.
Denies EtOH

 
Physical Exam:
99.7 81 122/74 18 99% RA
GEN: Well appearing, NAD
CV: no MRG, RRR, 
Pulm: CTAB
Abd: soft, appropriately tender, not distended, multiple lap 
incisions
Inc: Clean, dry, intact, no fluctuance, no erythema
Ext: WWP
 
Brief Hospital Course:
The patient presented to the hospital on ___ complaining of 
dysphagia, and abdominal pain. A UGI revealed gastric band 
prolapse. Pt was evaluated by anaesthesia and taken to the 
operating room where a laparoscopic adjustable gastric band and 
port removal was performed. There were no adverse events in the 
operating room; please see the operative note for details. Pt 
was extubated, taken to the PACU until stable, then transferred 
to the ward for observation.
 
Neuro: The patient was alert and oriented throughout the 
hospitalization; pain was well controlled with IV dilaudid PCA 
which was advanced to Roxicet
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: She was initially NPO, but after successfully 
demonstrating no constriction, and no leak on an UGI, she was 
advanced to a bariatric stage 1 diet, which was advanced 
sequentially to stage 3, and well tolerated. Patient's intake 
and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay; she was encouraged to get 
up and ambulate as early as possible.
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a stage 3 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
albuterol sulfate HFA 90 mcg/actuation 2 puffs inhaled every 
four (4) hours as 
atenolol 25 mg tablet. 1 Tablet(s) by mouth daily
Symbicort 80 mcg-4.5
mcg/actuation HFA Aerosol Inhaler. 2 puffs inhaled once a day
ciclopirox 0.77 % Topical Cream. Apply affected
areas both feet twice a day as directed.
Advair Diskus 100 mcg-50 mcg/dose 
Lasix 40 mg tablet
INSULIN LISPRO PROTAM & LISPRO [HUMALOG MIX ___ KWIKPEN] -
Humalog Mix ___ KwikPen 100 unit/mL (75-25) Sub-Q Pen. 35 
units
lisinopril 40 mg tablet
Singulair 10 mg tablet
aspirin 81 mg tablet
Calcium 600 with Vitamin D3 600 mg 
Vitamin D 2,000 unit
docusate sodium 100 mg capsule. 1 Capsule(s) by
loratadine 10 mg tablet. 1 Tablet(s) by mouth once a
day
MAGNESIUM OXIDE
MULTIVITAMIN
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN HEADACHE 
2. Fluticasone-Salmeterol Diskus (100/50) 2 INH IH BID 
3. Insulin SC 
      Sliding Scale

Fingerstick q6h
Insulin SC Sliding Scale using REG Insulin
4. OxycoDONE-Acetaminophen Elixir ___ mL PO Q4H:PRN PAIN 
RX *oxycodone-acetaminophen [Roxicet] 5 mg-325 mg/5 mL ___ tsp 
by mouth Q4-6H Disp #*250 Milliliter Refills:*0
5. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 2 tsp by mouth twice a day Disp 
#*200 Milliliter Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Band Prolapse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Your band was removed, but that does not mean you have to 
abandon your efforts to improve your health.  Take this 
opportunity and incorporate what you have learned from your 
health care team.  Continue being active on a regular basis and 
follow these healthful guidelines (not diet!) for life long 
benefits.

In the hospital, you will be on a stage 3 diet for healing.  
This diet includes all liquid, high protein, low sugar and low 
fat supplements.  When you are discharged home, you may advance 
your diet as tolerated.  Below are some helpful tips to continue 


your journey of eating well and healthy living.

 

1.Keep an eye on calories.

2.Always eat at a table.  Avoid eating while driving, standing, 


sitting on the sofa, or lying in bed.  

3.Eat slowly.  Continue to take 30 minutes to eat a meal and 
chew your foods thoroughly. 

4.Surround yourself with healthy foods. Clean out your cabinets 


of any “trigger” or “unsafe” foods.

5.Keep a food journal or track your intake on-line.  Record 
what you eat, portion sizes, and the time you eat.  You may want 


to include your mood and hunger level, as well.

6.Avoid skipping meals.  Always eat at regular times to avoid 
overeating later in the day.

7.Listen to your body.  Eat when you are physically hungry and 
stop when you are full.

8.Be active.  Engage in at least ___ minutes of physical 
activity most (if not all) days of the week. 

9.Regularly check your weight.  Give yourself an acceptable 
range (i.e. 5 pounds).  This prevents “slip ups” from becoming 
bigger problems down the road.

10. Make small changes.  Set small, reasonable goals to keep on 


track. 

11. Reward yourself.  Treat yourself when you reach goals with 
a non-food treat (i.e. pedicure, movie). 

12. Ask for support. Call the ___ nutrition clinic for 
follow-up at ___. Join Weight Watchers, talk to friends 


and family or contact a local dietitian. 

13. Drink plenty of fluids. Stay hydrated.

Fluids & Diet
Fluid intake is extremely important the first month of your 
recovery. You must also take in enough liquids
to prevent dehydration. Dehydration can cause nausea, fatigue, 
lightheadedness and dark urine.  We recommend you track what you 


drink and eat each day. 
Most Frequent Problems

Discomfort
Abdominal soreness below your ribs on the left side is the most 
common site of tenderness after waking up. Despite this 
discomfort, it is very important that you get out of bed and 
take short walks.

Dehydration
Your most important job after surgery is drinking enough fluid. 
Dehydration is the most common reason to return to the hospital 
after surgery. Your goal is to drink 8 cups (64 oz) of fluid a 
day. You may not be able to drink this much fluid at first, but 
come as close as you can. Refer to your nutrition
packet for more details.

Wound Drainage & Infection
It is important to care for your incisions to prevent infection. 


You will have small fiber tapes on your wounds. This should keep 


your wound dry and closed. Leave them on until they fall off by 
themselves. Do not put band aids, ointments, lotions or powder 
on your incisions. You may get your incisions wet but
avoid scrubbing them. Pat them dry. It is not unusual for an 
incision to drain a little bloody fluid after you
go home. If you have some drainage, dab the wounds with diluted 
hydrogen peroxide (hydrogen
peroxide mixed half and half with water) and then cover with a 
dry gauze. Doing this twice a day will
speed your recovery.
Infections are uncommon and rarely serious after a laparoscopic 
operation. An infection will be red, warm,
firm, and tender. The infected fluid will look more like pus 
than like blood. If you notice this please call the
nurse at the Bariatric ___ Program to discuss your symptoms

 
Followup Instructions:
___